US04443536
To a solution of 57.8 g (0.095 mol) α-pivalyl-α-[4-(p-benzyloxyphenylsulfonyl)-phenoxy]-2-chloro-5-amino acetanilide and 13 g quinoline, cooled to 0° C., was added in one portion 45 g (0.095 mol) of the acid chloride B1Cl prepared in Example 4. After stirring 1 h the reaction mixture was poured into 3 L cold water to produce 98 g (after oven drying) crude product. Recrystallization from toluene yielded 84.5 g (0.018 mol) white crystalline dibenzyl ether of the desired coupler. A suspension of 10.4 g (0.01 mol) of this product in 200 mL ethanol and 200 mL tetrahydrofuran was shaken 3 h under 35 psi hydrogen with palladium on charcoal catalyst. Removal of catalyst by filtration, concentration of the filtrate and trituration in hot cyclohexane gave a good yield of coupler Y-2 with the correct elemental analysis.

reactant | quinoline | 13 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | water | 3 L | O | H2O
product | dibenzyl ether | 0.018 mol, 84.5 g | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
